US04367238
Sodium hydride (65.5%, 665 mg), ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]acetate (5.7 g) and methyl iodide (3.55 g) were treated in a similar manner to that of Example 10-(5) to give oily ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionate (5.5 g).

reactant | Sodium hydride | 665 mg | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]acetate | 5.7 g | C(#N)C(C(=O)OCC)C1=C(C=CC(=C1)OC1=C(C=CC=C1)Cl)OC | C18H16ClNO4
reactant | methyl iodide | 3.55 g | CI | CH3I
product | ethyl 2-cyano-2-[2-methoxy-5-(2-chlorophenoxy)phenyl]propionate | 5.5 g | C(#N)C(C(=O)OCC)(C)C1=C(C=CC(=C1)OC1=C(C=CC=C1)Cl)OC | C19H18ClNO4
